US09334366B2
17.9 g (78 mmol) of 3,5-dinitrobenzoyl chloride are dissolved in 147 mL of toluene and 20 drops of DMF were incorporated. 24 g (78 mmol) of (2E)-3-{4-[(6-hydroxyhexyl)oxy]-3-methoxyphenyl}prop-2-enoate, 0.475 g (4 mmol) of 4-dimethylaminopyridine and 9.23 g (117 mmol) of pyridine are added. The mixture is stirred at room temperature for 96 hours. The solution is then heated up to 60° C. and 58 ml of MeOH are added. The suspension is stirred at room temperature for 1 hour and at 0° C. for 1 hour. The precipitate is filtered off. Chromatography of the residue using toluene: ethyl acetate 19:1 following by toluene: ethyl acetate 9:1 yielded 25 g (64%) of pure 6-{2-methoxy-4-[(1E)-3-methoxy-3-oxoprop-1-enyl]phenoxy}hexyl 3,5-dinitrobenzoate as an orange powder.

reactant | 3,5-dinitrobenzoyl chloride | 78 mmol, 17.9 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | (2E)-3-{4-[(6-hydroxyhexyl)oxy]-3-methoxyphenyl}prop-2-enoate | 78 mmol, 24 g | OCCCCCCOC1=C(C=C(C=C1)/C=C/C(=O)[O-])OC
reactant | pyridine | 117 mmol, 9.23 g | N1=CC=CC=C1 | C5H5N
reactant | MeOH | 58 ml | CO | CH4O
solvent | toluene | 147 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 20 drops | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 4 mmol, 0.475 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-{2-methoxy-4-[(1E)-3-methoxy-3-oxoprop-1-enyl]phenoxy}hexyl 3,5-dinitrobenzoate | 25 g, 64% | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCOC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)C=C(C1)[N+](=O)[O-] | C24H26N2O10
